US03950522
N-Allyl-2-(2-pyridyl)thioacetamide (500 mg.) in ether is treated with ethereal hydrogen chloride and the resulting precipitate is filtered off to give N-allyl-2-(2-pyridyl)thioacetamide hydrochloride.

reactant | N-Allyl-2-(2-pyridyl)thioacetamide | 500 mg | C(C=C)NC(CC1=NC=CC=C1)=S | C10H12N2S
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | N-allyl-2-(2-pyridyl)thioacetamide hydrochloride | Cl.C(C=C)NC(CC1=NC=CC=C1)=S | InChI=1S/C10H12N2S.ClH/c1-2-6-12-10(13)8-9-5-3-4-7-11-9;/h2-5,7H,1,6,8H2,(H,12,13);1H
